* CMOS Inverter

.model MyNMOS NMOS (LEVEL=1 VTO=0.6 KP=250u LAMBDA=0.02)
.model MyPMOS PMOS (LEVEL=1 VTO=-0.6 KP=120u LAMBDA=0.02)

V1 VDD 0 DC 1.8
V2 VIN 0 DC 0
M1 VOUT VIN VDD VDD MyPMOS L=1.8e-07 W=2e-06
M2 VOUT VIN 0 0 MyNMOS L=1.8e-07 W=1e-06

.dc V2 0 1.8 0.01

.control
run
print dc v(VOUT)
.endc

.end