* CMOS Inverter

.model MyNMOS NMOS (LEVEL=1 VTO=0.6 KP=250u LAMBDA=0.02)
.model MyPMOS PMOS (LEVEL=1 VTO=-0.6 KP=120u LAMBDA=0.02)

VDD VDD 0 DC 1.8
M1 VOUT VIN VDD VDD MyPMOS L=1.8e-07 W=2e-06
M2 VOUT VIN 0 0 MyNMOS L=1.8e-07 W=1e-06

VIN VIN 0 PULSE(0 1.8 0 10p 10p 2n 4n)
.tran 10p 20n

.end